US05514680
2-Bromo-3,4-difluoro-6-nitroaniline was prepared using an adaptation of the method of Mitchell et al. (Mitchell, R. H. et al., J. Org. Chem. 44:4733 (1979)). To a solution of 4,5-difluoro-2-nitroaniline (500 mg, 2.87 mmol) in DMF (25 mL) under N: was added all at once N-bromosuccinimide (511 mg, 2.87 mmol) in dry DMF (16 mL). The reaction was allowed to stir overnight. TLC (1:1 hexanes:ethyl acetate) showed still some starting material present. Additional N-bromosuccinimide (100 mg) was added and the reaction stirred another 12 h. The solution was then poured into 100 ml H2O and the resulting cloudy suspension extracted with 3×20 mL methylene chloride. The combined organic phases were washed with 4×25 mL H2O and 25 mL saturated NaCl solution and dried (MgSO4). The MgSO4 was vacuum filtered and the solvent rotary evaporated to yield a yellow brown oil which slowly crystallized to yield 700 mg (96%). 1H NMR (CDCl3) δ6.70 (br s, 2H, NH2), 7.99 (m, 1H, H-5).

reactant | 4,5-difluoro-2-nitroaniline | 2.87 mmol, 500 mg | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | N-bromosuccinimide | 2.87 mmol, 511 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N-bromosuccinimide | 100 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | H2O | 100 ml | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-3,4-difluoro-6-nitroaniline | BrC1=C(N)C(=CC(=C1F)F)[N+](=O)[O-] | C6H3BrF2N2O2
